US07427615B2
Synthesis of 1-(1-Methyl-6-oxo-4-pyridin-4-yl-1,6-dihydro-pyrimidine-2-yl)-piperidine-3-carboxanilide (Compound No. CO67 in Table-1)
A solution of 3-piperidinecarboxanilide hydrochloride (96.0 mg, 0.40 mmol), 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one (66.0 mg, 0.30 mmol) and triethylamine (0.33 ml, 2.50 mmol) in tetrahydrofuran (3 ml) was stirred at room temperature for 3 hours. The whole reaction mixture was evaporated in vacuo and the precipitate was washed with water and diethyl ether to give the title compound (107 mg, 92%).

reactant | 3-piperidinecarboxanilide hydrochloride | 0.40 mmol, 96.0 mg | Cl.N1CC(CCC1)C(=O)NC1=CC=CC=C1
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one | 0.30 mmol, 66.0 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
reactant | triethylamine | 2.50 mmol, 0.33 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1-(1-Methyl-6-oxo-4-pyridin-4-yl-1,6-dihydro-pyrimidine-2-yl)-piperidine-3-carboxanilide | 107 mg, 92% | CN1C(=NC(=CC1=O)C1=CC=NC=C1)N1CC(CCC1)C(=O)NC1=CC=CC=C1 | C22H23N5O2
